US05134147
1-(Benzocyclobuten-1-ylmethyl)-4-(2,4-difluorobenzoyl) piperidine
0.025 mole of 1-(benzocyclobuten-1-ylmethyl)-4-piperidinecarbonyl chloride (prepared by the action of oxalyl chloride on the acid described above), dissolved in 50 ml of dichloromethane, is introduced into a suspension of 0.025 mole of 1,3-difluorobenzene and 0.026 mole of aluminum trichloride in 10 ml of dichloromethane. When the gaseous evolution has ceased, the mixture is hydrolyzed with ice, settling is allowed to take place and the product is extracted with 1 N hydrochloric acid. The aqueous phase is then alkalinized and extracted with dichloromethane. After evaporation of the solvent, the expected product is obtained.

reactant | 1-(benzocyclobuten-1-ylmethyl)-4-piperidinecarbonyl chloride | 0.025 mole | C1(=CC2=C1C=CC=C2)CN2CCC(CC2)C(=O)Cl | C15H16ClNO
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1,3-difluorobenzene | 0.025 mole | FC1=CC(=CC=C1)F | C6H4F2
reactant | aluminum trichloride | 0.026 mole | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(Benzocyclobuten-1-ylmethyl)-4-(2,4-difluorobenzoyl) piperidine | Yield: 35% | C1(=CC2=C1C=CC=C2)CN2CCC(CC2)C(C2=C(C=C(C=C2)F)F)=O | C21H19F2NO
